US09028728B2
The product of Step 3 of Example 5, (9-bromo-2-methoxy-7,7-dimethyl-7H-benzo[c]fluoren-5-ol (6 g)) and 2-methoxyphenyl boronic acid (2.8 g) were added to a solution of dimethoxyethane (40 mL) and water (20 mL) in a 250 mL round bottom 3-necked flask, followed by addition of Na2CO3 (3.5 g). The resulting solution was bubbled with nitrogen for 10 minutes and then the Palladium catalyst, Pd[PPh3]4, 0.5 g, was added to the reaction mixture. Then the reaction mixture heat to reflux temperatures under a nitrogen atmosphere. The reaction was monitored by TLC analysis. By the end of reaction, the reaction was cooled to room temperature and quenched by adding water (30 mL). The pH of reaction mixture was adjusted to 5-6 by adding hydrochloric acid (37%, 7.5 g) slowly. The product was extracted with ethyl acetate (2×50 mL). The organic layers were combined, dried over anhydrous sodium sulfate, and concentrated by rotary evaporation to yield the product, 2-methoxy-9-(2-methoxyphenyl)-7,7-dimethyl-7H-benzo[c]fluoren-5-ol (5.7 g) which was used for next reaction as is.

reactant | 9-bromo-2-methoxy-7,7-dimethyl-7H-benzo[c]fluoren-5-ol | 6 g | BrC=1C=CC=2C=3C4=C(C(=CC3C(C2C1)(C)C)O)C=CC(=C4)OC | C20H17BrO2
reactant | 2-methoxyphenyl boronic acid | 2.8 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 3.5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 7.5 g | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | dimethoxyethane | 40 mL | C(OC)COC | C4H10O2
product | 2-methoxy-9-(2-methoxyphenyl)-7,7-dimethyl-7H-benzo[c]fluoren-5-ol | 5.7 g | COC1=CC2=C(C(=CC=3C(C=4C=C(C=CC4C23)C2=C(C=CC=C2)OC)(C)C)O)C=C1 | C27H24O3
